Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is an ___ year old woman with a past medical
history of A. fib not on a/c, HTN, HLD, anxiety, depression,
chronic indwelling Foley catheter c/b ESBL UTI who presents with
5 days of left monocular vision loss. 
Patient reports that a "few days" before ___. She says 
that
she woke up during the night to go to the bathroom and she
realized she couldn't see out of her left eye. She went back to
bed, and when she woke up in the morning the vision loss
persisted. She furhter describes the vision in the left eye as a
small "haze of vision" that moves around as her eye moves, with
surrounding blackness. She didn't mention it to family members
because she ___ want to make a fuss around the holidays. She
told a family member about it today, and EMS was called and
patient was brought to ___. Patient reports that since the
start of the vision loss, there has been no change in the amount
of vision she has. There is no eye pain. No vision problems in
the right eye. Denies jaw claudication. 
Patient was seen by ophthalmology, who felt that exam consistent
with central retinal artery occlusion. Etiology thought to be
most likely embolic as patient did not have symptoms consistent
with GCA. 

Patient reports that she was diagnosed with afib several years
ago. She was put on Eliquis, but this medication was stopped
because it was "too expensive" and "wouldn't help much". Patient
says that she does not fall at home. Her only fall that she can
remember was two weeks ago, at which time she tripped in the tub
and hit her right forehead, splitting the skin open and 
requiring
stitches, with no associated LOC. She does use a walker at
baseline for several years because she feels unsteady. 

 
Past Medical History:
afib not on AC 
Anxiety 
Depression
HTN
HLD
 
Social History:
___
Family History:
Father passed from an MI, unsure what her mother passed from. 
 
Physical Exam:
PHYSICAL EXAMINATION
 Vitals: T: 98.1 P: 60  R: 18  BP: 136/94  SaO2: 98% RA
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, No nuchal rigidity
 Pulmonary: breathing comfortably on room air
 Cardiac: irregular HR
 Abdomen: soft, NT/ND
 Extremities: 1+ ___ edema.
 Skin: venous stasis changes bilaterally

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Can
describe stroke card.  Able to read without difficulty. Speech
was not dysarthric. Able to follow both midline and appendicular
commands.  There was no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI: Pupils were dilated pharmacologically for
ophtho eval. EOMI without nystagmus. Normal saccades. VFF on the
right eye. Deferred ___ assessment given dilation. Fundoscopic
exam showed pale left optic disc. 
 V: Facial sensation intact to light touch and pinprick V1-V3.
 VII: No facial droop, facial musculature symmetric.
 VIII: Patient very hard of hearing, L>R (chronic)
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    1   1
 R  2  2    2    1   1
 Plantar response was flexor bilaterally. No pathologic 
reflexes.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: deferred per patient preference as walker not available. 
No change from prior exam
 
Pertinent Results:
___ 06:40AM BLOOD WBC-8.5 RBC-3.94 Hgb-11.5 Hct-34.7 MCV-88 
MCH-29.2 MCHC-33.1 RDW-13.9 RDWSD-44.8 Plt ___
___ 11:00PM BLOOD WBC-10.7* RBC-4.15 Hgb-12.1 Hct-37.0 
MCV-89 MCH-29.2 MCHC-32.7 RDW-13.9 RDWSD-45.5 Plt ___
___ 11:00PM BLOOD Neuts-64.0 ___ Monos-6.5 Eos-2.4 
Baso-0.8 Im ___ AbsNeut-6.84* AbsLymp-2.75 AbsMono-0.69 
AbsEos-0.26 AbsBaso-0.09*
___ 06:40AM BLOOD Glucose-92 UreaN-14 Creat-0.6 Na-143 
K-3.7 Cl-105 HCO3-23 AnGap-15
___ 11:00PM BLOOD Glucose-96 UreaN-14 Creat-0.7 Na-143 
K-4.1 Cl-107 HCO3-22 AnGap-14
___ 11:00PM BLOOD ALT-9 AST-16 AlkPhos-74 TotBili-0.3
___ 06:40AM BLOOD Calcium-8.2* Phos-3.4 Mg-2.0 Cholest-202*
___ 06:40AM BLOOD Triglyc-193* HDL-36* CHOL/HD-5.6 
LDLcalc-127
___ 11:00PM BLOOD CRP-6.1*

IMAGING: 
Non-Contrast CT of Head
No acute intracranial process. 
  
CTA head and neck: 
Patent intracranial and cervical vasculature without aneurysm or
dissection 

 
Brief Hospital Course:
Brief Hospital Course:

Ms. ___ is an ___ woman with a past medical history 
significant for afib not on anticoagulation (was previously on 
eliquis but stopped due to expensive cost) , hearing loss, HTN, 
HLD, anxiety/depression, and a chronic indwelling foley catheter 
(with recurrent ESBL UTI) who presented with 5 days of L 
monocular vision loss. 

In the ER she was evaluated by ophthalmology who found evidence 
of central retinal artery occlusion with cilioretinal sparing. 
CRP was checked for question of giant cell arteritis in the ER. 

# L monocular vision loss: 
-Evaluated by ophthalmology in the ER and found to have a 
central retinal artery occlusion with cilioretinal sparing. 
Giant cell arteritis was also considered however her lack of 
headaches , no jaw claudication/temporal tenderness this felt to 
be less likely. Her CRP was only very minimally elevated to 6.1, 
ESR currently pending. 
-Given her known history of atrial fibrillation, the etiology of 
embolus was strongly felt to be due to atrial fibrillation 
-The patient reported being on eliquis but was taken off about a 
year ago due to it being expensive/ not felt to be needed at the 
time by her PCP. Given that she tolerated the medication well, 
we called her outpatient pharmacy who checked the medication 
cost against her insurance. It was cleared to be covered fully 
by her insurance and therefore eliquis would be free of cost to 
her. Therefore we started 5mg BID 
-Opthalmology recommended follow up with their retinal 
specialist Dr. ___ ___ weeks. We called their office 
to schedule her for an appointment
-MRI brain was not done given that she had a ct scan of the head 
which did not show any acute infarcts and would have likely 
shown an infarct if present given that the symptoms were at 
least 5-days old 
-Echocardiogram was also deferred given that the patient has 
known A-fib already 

#Non-reccurent Falls: 
-Patient reported only a recent fall 2-weeks ago because she 
tripped over the bathtub. Before this her last fall was over ___ 
years ago. She ambulates with a walker to be safe but is steady. 
She lives alone in a one level apartment 
-The patient was able to ambulate independently on her own in 
the hospital and OT deferred consult given that the patient was 
able to perform all tasks appropriately without aid 

#HTN: 
-Patient had some elevated blood pressure readings while 
in-house. We would like her PCP to ___ the blood pressures 
in the outpatient setting to see if an additional agent is 
necessary 

#Hearing loss: 
-Patient found to be profoundly hard of hearing to the point 
where she is reading lips. Would recommend audiology evaluation 
for hearing aids if not already done (PCP to follow up) 

#Eliquis :
As noted above, eliquis prescription ran through her local 
pharmacy who stated that her insurance will cover this 
medication fully without a co-pay. Should this change the 
patient should let her PCP know so that an alternative 
anticoagulation agent can be considered 

*****************
Transitional issues: 
1. Patient needs f/u with Dr. ___ specialist (Message 
left for scheduler), call ___ if patient does not hear 
from them 
2. Stroke follow up with Dr. ___ ___ 
3. F/u with PCP ___ in ___ weeks 
4. Consideration of hearing aids 
5. Blood pressure check with PCP 
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. methenamine hippurate 1 gram oral BID 
4. Oxybutynin 10 mg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. ALPRAZolam 0.5 mg PO TID 
7. TraZODone 25 mg PO BID 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  ALPRAZolam 0.5 mg PO TID  
3.  Citalopram 20 mg PO DAILY  
4.  methenamine hippurate 1 gram oral BID  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Omeprazole 20 mg PO DAILY  
7.  Oxybutynin 10 mg PO DAILY  
8.  TraZODone 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Central Retinal Artery Occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital because you had vision 
disturbances particularly in your left eye for a  few days. You 
were evaluated by ophthalmology while in the ER who found you to 
have a condition called: 

CENTRAL RETINAL ARTERY OCCLUSION. 
This is essentially a small stroke caused by a blood clot in the 
artery of the L eye. You have lost vision in this eye. We hope 
that with time some of your vision will return. 

The cause of your stroke is most likely from 
atrial-fibrillation. We have started you on a blood thinning 
medication called ELIQUIS (also called apixaban) . You must take 
this medication every day TWICE a day to prevent further 
strokes. 

We have called your primary care doctor Dr. ___ to let him 
know that you have been started on eliquis and that you must 
take it twice daily. 

We have also scheduled you to ___ with Dr. ___ in 
the stroke clinic. Lastly, we have scheduled you for 
ophthalmology follow up to track your vision progress. In case 
you don't hear from them please call ___ to schedule an 
eye appointment with Dr. ___. 

It was a pleasure taking care of you!

Sincerely, 
Your Neurology Team

 
Followup Instructions:
___